US04556672
5-Acetyl-2-oxindole
To 95 ml. of carbon disulfide was added 27 g. (0.202 mole) of aluminum chloride, followed by the dropwise addition of a solution of 3 ml. (0.042 mole) of acetyl chloride in 5 ml. of carbon disulfide, with stirring. Stirring was continued for 5 minutes and then 4.4 g. (0.033 mole) of 2-oxindole was added. The resulting mixture was heated under reflux for 4 hours and cooled. The carbon disulfide was removed by decantation and the residue was triturated under water and recovered by filtration. After drying, 3.2 g. of the title compound was obtained, m.p. 225°-227° C.

reactant | aluminum chloride | 0.202 mole | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 0.042 mole | C(C)(=O)Cl | C2H3ClO
reactant | 2-oxindole | 0.033 mole | N1C(CC2=CC=CC=C12)=O | C8H7NO
solvent | carbon disulfide | C(=S)=S | CS2
product | 5-Acetyl-2-oxindole | C(C)(=O)C=1C=C2CC(NC2=CC1)=O | C10H9NO2
